US07385059B2
A solution of 4-{[4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (7.9 g) in MeOH (50 mL) and EtOAc (50ml) was treated with sat. HCl-EtOAc (40 mL) then stirred at r.t. overnight. The product did not crystallise due to the presence of methanol, and therefore the reaction mixture was evaporated and the residue triturated with EtOAc. The resulting off white solid was collected by filtration, washed with EtOAc and sucked dry on the sinter to give 6.3 g of 4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carboxylic acid piperidin-4-ylamide as the hydrochloride salt. (LC/MS: Rt 5.89, [M+H]+382/384).

reactant | 4-{[4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 7.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C1=NNC=C1NC(C1=C(C=CC=C1Cl)Cl)=O | C21H25Cl2N5O4
reactant | HCl EtOAc | 40 mL | Cl.CCOC(=O)C
solvent | MeOH | 50 mL | CO | CH4O
solvent | EtOAc | 50ml | CCOC(=O)C | C4H8O2
product | 4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carboxylic acid piperidin-4-ylamide | 6.3 g | N1CCC(CC1)NC(=O)C1=NNC=C1NC(C1=C(C=CC=C1Cl)Cl)=O | C16H17Cl2N5O2
